US09029531B2
Step B: methyl 2-(5-((tert-butoxycarbonylamino)methyl)pyridin-2-yl)acetate
To a solution of (6-(2-methoxy-2-oxoethyl)pyridin-3-yl)methanaminium chloride (400 mg, 2.22 mmol) in CH2Cl2 (50 ml) was added triethylamine (561 mg, 5.55 mmol), and then was added (Boc)2O (726 g, 3.33 mmol). The reaction mixture was stirred overnight. LCMS showed that the desired product was detected, the mixture was concentrated to give the residue, the residue was purified by a standard method to give the desired product.

reactant | (6-(2-methoxy-2-oxoethyl)pyridin-3-yl)methanaminium chloride | 2.22 mmol, 400 mg | [Cl-].COC(CC1=CC=C(C=N1)C[NH3+])=O
reactant | triethylamine | 5.55 mmol, 561 mg | C(C)N(CC)CC | C6H15N
reactant | (Boc)2O | 3.33 mmol, 726 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-(5-((tert-butoxycarbonylamino)methyl)pyridin-2-yl)acetate | C(C)(C)(C)OC(=O)NCC=1C=CC(=NC1)CC(=O)OC | C14H20N2O4
